US05338743
A mixture of 3-[2-(5-bromopentyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (2.753 g) and sodium cyanide (0.37 g) in dimethyl sulfoxide (12.6 ml) was stirred at room temperature for 2 hours and then at 60° C. for 1 hour. To the mixture was added water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of chloroform and methanol as an eluent to afford 3-[2-(5-cyanopentyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.75 g).

reactant | 3-[2-(5-bromopentyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 2.753 g | BrCCCCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C22H21BrN4O
reactant | sodium cyanide | 0.37 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 12.6 ml | CS(=O)C | C2H6OS
product | 3-[2-(5-cyanopentyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.75 g | C(#N)CCCCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H21N5O
